US06071903
4-(4-Methoxybenzenesulfonyl)-1-(3-trifluoromethylbenzoyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylic acid
A mixture of 0.36 g (0.61 mmol) of 4-(4-methoxybenzenesulfonyl)-1-(3-trifluoromethylbenzoyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylic acid, tert-butyl ester and 3 ml of trifluoroacetic acid in 3 ml of CH2Cl2 was stirred at room temperature for 3 hours. The mixture was concentrated to dryness under vacuum and the residue extracted with CH2Cl2. The CH2Cl2 was washed with 1 N NaHCO3 and the aqueous layer (pH 8) was acidified with 2 N citric acid and extracted with ethyl acetate. The extract was dried (Na2SO4). The original CH2Cl2 extract was washed with 2 N citric acid, H2O, brine and dried with Na2SO4. The CH2Cl2 extract and the ethyl acetate extract were combined and the solvent removed under vacuum to give 0.31 g of solid, m.p. 105-110° C. Anal. for C25H21F3N2O6S: Calc'd: C,56.2; H,4.0; N,5.2; Found: C,55.1; H,3.7; N,5.0.

reactant | 4-(4-methoxybenzenesulfonyl)-1-(3-trifluoromethylbenzoyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylic acid, tert-butyl ester | 0.61 mmol, 0.36 g | COC1=CC=C(C=C1)S(=O)(=O)N1C(CN(C2=C(C1)C=CC=C2)C(C2=CC(=CC=C2)C(F)(F)F)=O)C(=O)OC(C)(C)C | C29H29F3N2O6S
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-Methoxybenzenesulfonyl)-1-(3-trifluoromethylbenzoyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylic acid | 0.31 g | COC1=CC=C(C=C1)S(=O)(=O)N1C(CN(C2=C(C1)C=CC=C2)C(C2=CC(=CC=C2)C(F)(F)F)=O)C(=O)O | C25H21F3N2O6S
